US07060827B2
In like manner to the preparation of N4-(3-chloro-4-trifluoromethoxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidineamine, the reaction of 2-chloro-5-fluoro-N4-(3-hydroxyphenyl)-4-pyrimidineamine with 3-(1H-pyrazol-3-yl)aniline gave 5-fluoro-N4-(3-hydroxyphenyl)-N2-[3-(1H-pyrazol-3-yl)phenyl]-2,4-pyrimidinediamine. LCMS: purity: 84%; MS 363 (MH+)

reactant | 2-chloro-5-fluoro-N4-(3-hydroxyphenyl)-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC(=CC=C1)O)F | C10H7ClFN3O
reactant | 3-(1H-pyrazol-3-yl)aniline | N1N=C(C=C1)C=1C=C(N)C=CC1 | C9H9N3
product | 5-fluoro-N4-(3-hydroxyphenyl)-N2-[3-(1H-pyrazol-3-yl)phenyl]-2,4-pyrimidinediamine | FC=1C(=NC(=NC1)NC1=CC(=CC=C1)C1=NNC=C1)NC1=CC(=CC=C1)O | C19H15FN6O
